US05883093
Step 2: 4-[3-[(tert-butyldimethylsilyl)oxy]-3-methyl-1-azetidinyl]-3-fluoronitrobenzene
A solution of 3-fluoro-4-(3-hydroxy-3-methyl-1-azetidinyl)nitrobenzene (1.80 g, 8.0 mmol) in dry N,N-dimethylformamide (15 mL) was cooled to 0° C. with an ice bath and then treated with imidazole (0.572 g, 8.4 mmol) and tert-butyldimethylsilyl chloride (1.30 g, 8.4 mmol) under N2. The reaction mixture was stirred overnight with gradual dissipation of the cooling bath. The reaction mixture was then transferred to a separatory funnel, along with water and 1:1 hexane/diethyl ether. After shaking, the layers were separated and the aqueous phase back-extracted with additional 1:1 hexane/diethyl ether. The combined organic extracts were washed with water and brine, dried over sodium sulfate, filtered and concentrated in vacuo to give an oil. Chromatography over silica gel, eluting with 3% diethyl ether/hexane and then 1:1 hexane/ethyl acetate, afforded, after concentration of appropriate fractions, 0.536 g of starting alcohol and 1.90 g (70%) of the title compound as a bright yellow solid with mp 98°-99.5° C. and MS(EI) 340 (M+).

reactant | 3-fluoro-4-(3-hydroxy-3-methyl-1-azetidinyl)nitrobenzene | 8.0 mmol, 1.80 g | FC=1C=C(C=CC1N1CC(C1)(C)O)[N+](=O)[O-] | C10H11FN2O3
reactant | imidazole | 8.4 mmol, 0.572 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 8.4 mmol, 1.30 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | hexane diethyl ether | CCCCCC.C(C)OCC
product | 4-[3-[(tert-butyldimethylsilyl)oxy]-3-methyl-1-azetidinyl]-3-fluoronitrobenzene | 1.90 g, 70% | [Si](C)(C)(C(C)(C)C)OC1(CN(C1)C1=C(C=C(C=C1)[N+](=O)[O-])F)C | C16H25FN2O3Si
